US05981533
3-(3-Hydroxy-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine
A mixture of 70 mg (0.2 mmol) of 1-benzyl-4-chloro-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]-pyrimidine, 115.6 μl (1.1 mmol) of 3-chloro-aniline and 7 ml of 1-butanol is heated under reflux for 20 hours and then concentrated by evaporation in vacuo. The residue is digested in hexane and filtered. Repeated digestion of the filter residue in diisopropyl ether and in ethanol yields the title compound; m.p. 118-119° C.

reactant | 1-benzyl-4-chloro-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]-pyrimidine | 0.2 mmol, 70 mg | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2Cl)C2=CC(=CC=C2)OC | C19H15ClN4O
reactant | 3-chloro-aniline | 1.1 mmol, 115.6 μl | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | 1-butanol | 7 ml | C(CCC)O | C4H10O
product | 3-(3-Hydroxy-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | OC=1C=C(C=CC1)C1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C17H12ClN5O
